US07652049B2
A dry flask was charged with THF (1 mL) diethyl azodicarboxylate (DEAD) (11 μL, 0.0698 mmol) and diphenylphosphoryl azide (DPPA) (15 μL, 0.0698 mmol). tert-butyl{(1S,2S)-2-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-1-methylethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate (20.7 mg, 0.0698 mmol) was added by cannula in THF (1 mL). Next Ph3P (18.3 mg, 0.0698 mmol) was added. The reaction was stirred at room temperature for 30 min, and then additional DEAD (11 μL, 0.0698 mmol), DPPA (15 μL, 0.0698 mmol), and Ph3P (18.3 mg, 0.0698 mmol) were added. After an additional 30 min, the reaction was diluted with EtOAc (40 mL) and washed with water and brine (15 mL each). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography with 15% EtOAc/hexanes afforded tert-butyl{(1S,2R)-2-azido-2-[3,5-bis(trifluoromethyl)phenyl]-1-methylethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate. Rf=0.60 (25% EtOAc/hexanes). LCMS=619.3 (M+1−BOC)+.

reactant | diphenylphosphoryl azide | 0.0698 mmol, 15 μL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butyl{(1S,2S)-2-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-1-methylethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | 0.0698 mmol, 20.7 mg | C(C)(C)(C)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)[C@H]([C@@H](O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C)=O | C34H36F9NO4
reactant | Ph3P | 0.0698 mmol, 18.3 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.0698 mmol, 11 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | DPPA | 0.0698 mmol, 15 μL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Ph3P | 0.0698 mmol, 18.3 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | THF | 0.0698 mmol, 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | tert-butyl{(1S,2R)-2-azido-2-[3,5-bis(trifluoromethyl)phenyl]-1-methylethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | C(C)(C)(C)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)[C@H]([C@@H](C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N=[N+]=[N-])C)=O | C34H35F9N4O3
